US08859591B2
To a 0° C. solution of (+\−)-methyl 6-(tert-butoxycarbonyl(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butyl)amino)nicotinate (110 mg, 4.7 mmol) in dichloromethane (20 mL) was added trifluoroacetic acid (10 mL). The solution was stirred at 20° C. for 2 h. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and washed with water (20 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated to give (+\−)-methyl 6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinate (800 mg) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 11.11 (d, J=4.0 Hz, 1H), 8.76 (s, 1H), 8.45 (d, J=1.6 Hz, 1H), 8.36 (d, J=1.6 Hz, 1H), 8.17 (d, J=9.2 Hz, 1H), 7.96 (d, J=8.4 Hz, 1H), 7.86-7.82 (m, 2H), 6.59 (d, J=9.6 Hz, 1H), 4.54-4.49 (m, 1H), 3.83 (s, 3H), 2.06-1.97 (m, 1H), 1.72-1.58 (m, 2H), 0.96 (d, J=6.4 Hz, 3H), 0.89 (d, J=6.4 Hz, 3H).

reactant | (+\−)-methyl 6-(tert-butoxycarbonyl(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butyl)amino)nicotinate | 4.7 mmol, 110 mg | C(C)(C)(C)OC(=O)N(C1=NC=C(C(=O)OC)C=C1)C(CC(C)C)C=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F | C26H30F3N5O4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (+\−)-methyl 6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinate | 800 mg | CC(CC(C=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1)C | C21H22F3N5O2
